US04663319
1-Phenethyl-3-acetyl-2,4-dioxopiperidine (5.0 g) and 10% hydrochloric acid (30 ml) are added to ethanol (50 ml), and the mixture is refluxed for 6 hours. After distilling off the solvent, the residue is dissolved in chloroform, and the solution is washed with a saturated sodium chloride solution, dried and then distilled to remove the solvent to give 1-phenethyl-2,4-dioxopiperidine (3.62 g, 86.4%) as an oily substance.

reactant | 1-Phenethyl-3-acetyl-2,4-dioxopiperidine | 5.0 g | C(CC1=CC=CC=C1)N1C(C(C(CC1)=O)C(C)=O)=O | C15H17NO3
reactant | hydrochloric acid | 30 ml | Cl | ClH
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 1-phenethyl-2,4-dioxopiperidine | 3.62 g, 86.4% | C(CC1=CC=CC=C1)N1C(CC(CC1)=O)=O | C13H15NO2
